US06525202B2
2-Methyl-5-(2-oxiranylmethoxy)pyridine
The title compound was prepared from 6-methyl-3-pyridinol and (2S)-oxiranylmethyl 3-nitrobenzenesulfonate in substantially the same manner as described in Example 123. The product was obtained as a brown oil; 1H NMR (400 MHz, DMSO-d6) δ 2.38 (s, 2.38, 1H), 2.68-2.70 (m, 1H), 2.81-2.84 (m, 1H), 3.30-3.34 (m, 1H), 3.83-3.87 (m, 1H), 4.34-4.38 (m, 1H), 7.15-7.17 (m, 1H), 7.28-7.31 (m, 1H), 8.15-8.16m (m, 1H); MS (ES) m/z: 165 (M)+.

reactant | 6-methyl-3-pyridinol | CC1=CC=C(C=N1)O | C6H7NO
reactant | (2S)-oxiranylmethyl 3-nitrobenzenesulfonate | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@H]1OC1 | C9H9NO6S
product | 2-Methyl-5-(2-oxiranylmethoxy)pyridine | CC1=NC=C(C=C1)OCC1OC1 | C9H11NO2
